US04056540
a. trans-6-Chloro-4-(2-fluorophenyl)-N-(2-propyl)-1,3-benzodioxan-2-carboxamide
A solution of 3.38 g (10.9 mmoles) of trans-6-chloro-4-(2-fluorophenyl)-1,3-benzodioxan-2-carboxylic acid, 10.0 ml (16.4 g, 137 mmoles) of thionyl chloride, and 5 drops of anhydrous DMF in 200 ml of anhydrous Ch2Cl2 was refluxed for 2 hours; the solvent and excess SOCl2 were removed under reduced pressure and the residue was flashed down with 3 portions of anhydrous benzene to remove traces of SOCl2. The acid chloride was redissolved in 100 ml of anhydrous CH2Cl2 and 5.57 ml (3.86 g, 65.4 mmoles) of 2-aminopropane was added all at once; heat was evolved. The reaction mixture stood in a stoppered flask for 16 hours.

reactant | trans-6-chloro-4-(2-fluorophenyl)-1,3-benzodioxan-2-carboxylic acid | 10.9 mmoles, 3.38 g | ClC1=CC2=C(O[C@@H](O[C@H]2C2=C(C=CC=C2)F)C(=O)O)C=C1 | C15H10ClFO4
reactant | thionyl chloride | 137 mmoles, 10.0 ml, 16.4 g | S(=O)(Cl)Cl | Cl2OS
reactant | 2-aminopropane | 65.4 mmoles, 5.57 ml, 3.86 g | NC(C)C | C3H9N
catalyst | DMF | 5 drops | CN(C)C=O | C3H7NO
product | trans-6-Chloro-4-(2-fluorophenyl)-N-(2-propyl)-1,3-benzodioxan-2-carboxamide | ClC1=CC2=C(O[C@@H](O[C@H]2C2=C(C=CC=C2)F)C(=O)NC(C)C)C=C1 | C18H17ClFNO3
